US09034866B2
Synthesis of 8-fluoro-9-iodo-3((1-methyl-1H-pyrazol-5-yl)methyl)-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide
A pressure tube containing a solution of ethyl 8-fluoro-9-iodo-3((1-methyl-1H-pyrazol-5-yl)methyl)-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate (77 mg, 0.15 mmol) in methanolic ammonia (5 mL of 7.0M ammonia in methanol) was warmed to 44° C. for 48 hr. Evaporation of the reaction mixture furnished the title compound (67 mg, 0.14 mmol, 93%) as a colorless solid: 1H NMR (500 MHz, d4-methanol) δ 1.65 (d, J=11.35 Hz, 2H), 2.93-3.02 (m, 2H), 3.47-3.53 (m, 1H), 3.64 (td, J=8.04, 4.10 Hz, 1H), 3.89 (s, 3H), 5.61 (d, J=1.89 Hz, 1H), 5.88 (s, 2H), 6.93 (d, J=8.83 Hz, 1H), 7.30 (d, J=1.89 Hz, 1H), 8.79 (d, J=6.94 Hz, 1H); M+H=478.

reactant | ethyl 8-fluoro-9-iodo-3((1-methyl-1H-pyrazol-5-yl)methyl)-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate | 0.15 mmol, 77 mg | FC1=CC2=C(C3=C(N(C(=N3)C(=O)OCC)CC3=CC=NN3C)C3CC2C3)C=C1I | C21H20FIN4O2
reactant | ammonia | 7.0M, 5 mL | N | H3N
product | 8-fluoro-9-iodo-3((1-methyl-1H-pyrazol-5-yl)methyl)-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide | 0.14 mmol, 67 mg, 93% | FC1=CC2=C(C3=C(N(C(=N3)C(=O)N)CC3=CC=NN3C)C3CC2C3)C=C1I | C19H17FIN5O
